US05100889
A. 2-[2-[[Dimethyl(1,1,2-trimethyl-propyl)silyl]oxy]ethyl]benzene bromide
2-Bromophenethyl alcohol (43.80 g, 217.9 mmol) was dissolved in anhydrous CH2Cl2 (200 mL) and imidazole (16.32 g, 239.6 mmol) was added and stirred under argon 0° C. Dimethylthexylsilyl chloride (42.83 g, 239.6 mmol) was added dropwise and the reaction mixture was stirred for three days at room temperature. It was diluted with H2O (50 mL) and ether (100 mL) and partitioned. The aqueous layer was extracted with ether (2×100 mL). The combined organic layers were washed with 5% aqueous HCl (1 time), H2O (1 time), aqueous NaHCO3 (1 time), H2O (1 time), and brine, then dried (MgSO4) and concentrated in vacuo to obtain a yellow oil. The crude product was Kugelrohr distilled (55°-80° ) under oil pump vacuum to give the purified title compound.

reactant | 2-Bromophenethyl alcohol | 217.9 mmol, 43.80 g | BrC1=C(CCO)C=CC=C1 | C8H9BrO
reactant | imidazole | 239.6 mmol, 16.32 g | N1C=NC=C1 | C3H4N2
reactant | Dimethylthexylsilyl chloride | 239.6 mmol, 42.83 g | C[Si](C(C)(C)C(C)C)(C)Cl | C8H19ClSi
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 mL | O | H2O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2-[2-[[Dimethyl(1,1,2-trimethyl-propyl)silyl]oxy]ethyl]benzene bromide | [Br-].C[Si](OCCC1=CC=CC=C1)(C(C(C)C)(C)C)C | InChI=1S/C16H28OSi.BrH/c1-14(2)16(3,4)18(5,6)17-13-12-15-10-8-7-9-11-15;/h7-11,14H,12-13H2,1-6H3;1H/p-1
